US04515727
A solution of 3.9 g of 3-hexyn-1,6-diol mono-t-butyl-dimethylsilyl ether in 50 ml of methylene chloride was cooled to -20° C. and treated with 4.18 ml of triethyl amine and then 1.77 ml of methane sulfonyl chloride. After stirring 15 minutes at -20° C. the reaction mixture was diluted with water and extracted twice with 50 ml of methylene chloride. The organic layers were washed with brine, dried over sodium sulfate and evaported in vacuo to give the 3-hexyn-1,6-diol t-butyldimethylsilyl ether methyl sulfonate.

reactant | 3-hexyn-1,6-diol mono-t-butyl-dimethylsilyl ether | 3.9 g | [Si](C)(C)(C(C)(C)C)OCCC#CCCO | C12H24O2Si
reactant | triethyl amine | 4.18 ml | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 1.77 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-hexyn-1,6-diol t-butyldimethylsilyl ether methyl sulfonate | CS(=O)(=O)OCCC#CCCO[Si](C)(C)C(C)(C)C | C13H26O4SSi
